US08609696B2
This compound is synthesized as described by adaptation of the following reference: Matthews et al, J. Org. Chem., 1986, 51, 3228. To a stirred solution of (2′-fluorobiphenyl-4-yl)(4-{[4-(trifluoromethyl)-1H-imidazol-2-yl]methyl}piperidin-1-yl)methanone (0.114 g, 0.27 mmol) in MeCN (10 mL) is added hydroxylamine (5% aqueous solution, 40 mL). The reaction is heated at 60° C. for 4 h then allowed to cool to room temperature. The mixture is extracted with DCM and washed with saturated aqueous NaHCO3. The organic layer is dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product. Purification by column chromatography (silica, eluent: DCM, 0-4% MeOH) gives 12.8 mg (12%) of 2-({1-[(2′-fluorobiphenyl-4-yl)carbonyl]piperidin-4-yl}methyl)-1H-imidazole-4-carbonitrile.

reactant | (2′-fluorobiphenyl-4-yl)(4-{[4-(trifluoromethyl)-1H-imidazol-2-yl]methyl}piperidin-1-yl)methanone | 0.27 mmol, 0.114 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CCC(CC1)CC=1NC=C(N1)C(F)(F)F | C23H21F4N3O
reactant | hydroxylamine | 40 mL | NO | H3NO
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-({1-[(2′-fluorobiphenyl-4-yl)carbonyl]piperidin-4-yl}methyl)-1H-imidazole-4-carbonitrile | 12.8 mg, 12% | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CCC(CC1)CC=1NC=C(N1)C#N | C23H21FN4O
